US04558046
7-methyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester (3.4 g), prepared according to Example 1, was reacted with pyridinium bromide perbromide (5.31 g) in anhydrous pyridine (80 ml) under stirring at room temperature for 40 minutes. The reaction mixture was poured in ice water and the precipitate was filtered and washed with water until neutral. The crude compound was purified over a SiO2 column, using chloroform:ethyl acetate 100:5 as eluent, so obtaining 3.3 g of 6-bromo-7-methyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester, m.p. 199°-201° C., which was reacted with benzaldehyde (2.3 g) in methanol (90 ml) in the presence of sodium methoxide (0.75 g) under stirring at reflux temperature for 48 hours. The precipitate was filtered and dissolved in a mixture of dimethylformamide and formic acid: the solution was diluted with ice water and the precipitate was filtered and washed with water until neutral. Crystallization from methanol gave 2.4 g of 6-bromo-7-trans-(2-phenyl-ethenyl)-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, m.p. 281°-285° C.

reactant | 7-methyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester | 3.4 g | CC=1N=C2N(C(C1)=O)C=C(S2)C(=O)OC | C9H8N2O3S
reactant | pyridinium bromide perbromide | 5.31 g | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 6-bromo-7-methyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester | 3.3 g | BrC1=C(N=C2N(C1=O)C=C(S2)C(=O)OC)C | C9H7BrN2O3S
